US07906517B2
2-[(2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-ol (1.33 g) is dissolved in tetrahydrofuran (20 ml), and thereto are added 2-methylsulfanyl-ethanol (290 μl), triphenylphosphine (870 mg) and 40% diethyl azodicarboxylate/toluene solution (1.5 ml) and the mixture is stirred at room temperature for 45 minutes. To the reaction solution are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by NH-silica gel column chromatography (hexane:ethyl acetate=99:1→19:1) to give (2-benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methylsulfanyl-ethoxy)-pyrimidin-2-yl]-amine (1.21 g). MS (m/z): 676 [M+H]+

reactant | 2-[(2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-ol | 1.33 g | C(C1=CC=CC=C1)OC1=C(CN(C2=NC=C(C=N2)O)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C28H20F9N3O2
reactant | 2-methylsulfanyl-ethanol | 290 μl | CSCCO | C3H8OS
reactant | triphenylphosphine | 870 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | 1.5 ml | N(=NC(=O)OCC)C(=O)OCC.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (2-benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methylsulfanyl-ethoxy)-pyrimidin-2-yl]-amine | 1.21 g | C(C1=CC=CC=C1)OC1=C(CN(C2=NC=C(C=N2)OCCSC)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C31H26F9N3O2S
